US09062070B2
Oxalyl chloride (15 mL) was added dropwise at 0° C. to a suspension of 3-bromo-6-fluoro-2-methoxybenzoic acid (15 g, 60 mmol) in 100 mL of DCM with 0.5 mL of DMF. The mixture was stirred at 25° C. for 2 hours and the clear solution was concentrated to dryness under reduced pressure. The residue dissolved in 60 mL of anhydrous acetonitrile was added to 600 mL of aqueous NH3.H2O at 0° C. and stirred for 2 hours, then filtered to give 3-bromo-6-fluoro-2-methoxybenzamide.

reactant | Oxalyl chloride | 15 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-bromo-6-fluoro-2-methoxybenzoic acid | 60 mmol, 15 g | BrC=1C(=C(C(=O)O)C(=CC1)F)OC | C8H6BrFO3
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-6-fluoro-2-methoxybenzamide | BrC=1C(=C(C(=O)N)C(=CC1)F)OC | C8H7BrFNO2
